US06432957B1
Synthesis of N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]glycine amide
N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)glycine amide (5.15 g) was dissolved in a 20% acetonitrile solution (40 mL) of piperidine, and the solution was stirred at room temperature for 4 hours. Ethyl acetate was added to the reaction mixture, and the mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=20:1) to obtain the title compound.

reactant | N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)glycine amide | 5.15 g | [Si](C)(C)(C(C)(C)C)OCCN(C(CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C40H49N3O7Si
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | piperidine | N1CCCCC1 | C5H11N
product | N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]glycine amide | [Si](C)(C)(C(C)(C)C)OCCN(C(CN)=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C25H39N3O5Si
